US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethyoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-oxoethyl)pyrrolidine (0.51 g, 1.13 mmol), 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.40 g, 1.36 mmol), and silica gel (about 2 g) in methanol (24 mL) and stir. After 3 days, add sodium cyanoborohydride (0.71 g, 11.3 mmol) and 3 Å molecular sieves (about 12 g) and stir under an inert atmosphere. After 18 hours, add a solution of 2 M sodium hydroxide and dichloromethane and stir. After 18 hours, filter, separate the layers in the filtrate, and extract the organic layer with brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/methanol to give, after drying in vacuo at 82° C., the title compound: mp; 55-65° C. Rf=0.36 (silica gel, 1/1 ethyl acetate/methanol). Elemental Analysis calculated for C38H47Cl2N5O5: C 62.98; H 6.54; N 9.66; Found: C 62.65; H 6.65; N 9.51.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-oxoethyl)pyrrolidine | 1.13 mmol, 0.51 g | COC=1C=C(C(=O)N2CC(CC2)(CC=O)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C22H23Cl2NO5
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1.36 mmol, 0.40 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
reactant | sodium cyanoborohydride | 11.3 mmol, 0.71 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | methanol | 24 mL | CO | CH4O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethyoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C38H47Cl2N5O5
